US04372952
Sodium bicarbonate (4.2 g.) was added to a suspension of 2-(2-formamidothiazol-4-yl)glyoxylic acid (10 g.) in water (500 ml.) to prepare a solution. t-Butyl 2-aminoxyacetate hydrochloric (8.1 g.) was added to the solution and stirred at room temperature for 3 hours while adjusting to pH 6 with sodium bicarbonate. The resultant solution was adjusted to pH 1.5 with hydrochloric acid, salted out and extracted with ethyl acetate three times. The extract was dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diethyl ether, and the precipitates were collected by filtration and dried to give 2-(2-formamidothiazol-4-yl)-2-t-butoxycarbonylmethoxyiminoacetic acid (syn isomer, 11.3 g.), mp 117° C. (dec.).

reactant | Sodium bicarbonate | 4.2 g | C([O-])(O)=O.[Na+]
reactant | 2-(2-formamidothiazol-4-yl)glyoxylic acid | 10 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
reactant | t-Butyl 2-aminoxyacetate | 8.1 g | O(N)CC(=O)OC(C)(C)C | C6H13NO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 2-(2-formamidothiazol-4-yl)-2-t-butoxycarbonylmethoxyiminoacetic acid | 11.3 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C12H15N3O6S
